US07511050B2
Step D: 3-(2-aminoethyl)-7-bromo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To a mixture of 3-(2-aminoethyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (310 mg, 1.1 mmol) in THF (50 mL), was added N-Bromosuccinimide (0.29 g, 1.6 mmol). The mixture was stirred at 70° C. for 1 hour. The reaction mixture was concentrated. The solid was filtered and washed with EtOAc to yield the desired product (300 mg, 76% yield). LCMS calculated for C13H19BrN7O (M+H): 368.1, 370.1; found: 368.0, 370.0.

reactant | 3-(2-aminoethyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 1.1 mmol, 310 mg | NCCC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C13H19N7O
reactant | N-Bromosuccinimide | 1.6 mmol, 0.29 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(2-aminoethyl)-7-bromo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 300 mg, 76% yield | NCCC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)Br)=O | C13H18BrN7O
